US08278341B2
6-(2-(dimethylamino)ethoxy)-2,10-difluoro-5,7-dihydroindolo[2,3-b]carbazole-12-carbonitrile
A mixture of 2-(12-bromo-2,10-difluoro-5,7-dihydroindolo[2,3-b]carbazol-6-yloxy)-N,N-dimethylethanamine (97.8 mg, 0.1991 mmol), zinc cyanide (233.7 mg, 1.9910 mmol) and tetrakis(triphenylphosphine)palladium (0) (23.0 mg, 0.01991 mmol) in anhydrous DMF was purged with high-purity Ar for five minutes, sealed with Teflon cap and heated to 160° C. for 12 hours. The reaction mixture was cooled down and filtered. The solvent was removed via vacuum pump. The residue was purified via flash chromatography to provide the title compound (37.3 mg, 46%). 1H-NMR (400 MHz, DMSO-d6) δ ppm 11.90 (s, 2H), 8.39 (dd, J=10.2, 2.8 Hz, 2H), 7.55 (dd, 8.8, 4.4 Hz, 2H), 7.31 (td, J=8.8, 2.4 Hz, 2H), 4.33 (t, J=4.2 Hz, 2H), 2.74 (t, J=4.2 Hz, 2H), 2.35 (s, 6H); MS (ESI) m/z 403.1 (M−H)−; MS (ESI) m/z 405.0 (M+H)+

reactant | 2-(12-bromo-2,10-difluoro-5,7-dihydroindolo[2,3-b]carbazol-6-yloxy)-N,N-dimethylethanamine | 0.1991 mmol, 97.8 mg | BrC1=C2C(=C(C=3NC4=CC=C(C=C4C13)F)OCCN(C)C)NC=1C=CC(=CC12)F | C22H18BrF2N3O
reactant | DMF | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 1.9910 mmol, 233.7 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 0.01991 mmol, 23.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(2-(dimethylamino)ethoxy)-2,10-difluoro-5,7-dihydroindolo[2,3-b]carbazole-12-carbonitrile | 37.3 mg, 46% | CN(CCOC1=C2C(=C(C=3C4=CC(=CC=C4NC13)F)C#N)C=1C=C(C=CC1N2)F)C | C23H18F2N4O
